US04895920
4,4'-bis(6-isocyanatohexanoyloxy)biphenyl
From 35 g (0.2 mol) of 6-isocyanatohexanoic acid chloride and 23 g (0.07 mol) of 4,4'-bis(trimethylsiloxy)biphenyl.

reactant | 6-isocyanatohexanoic acid chloride | 0.2 mol, 35 g | N(=C=O)CCCCCC(=O)Cl | C7H10ClNO2
reactant | 4,4'-bis(trimethylsiloxy)biphenyl | 0.07 mol, 23 g | C[Si](OC1=CC=C(C=C1)C1=CC=C(C=C1)O[Si](C)(C)C)(C)C | C18H26O2Si2
product | 4,4'-bis(6-isocyanatohexanoyloxy)biphenyl | N(=C=O)CCCCCC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(CCCCCN=C=O)=O | C26H28N2O6
